2189-12-10 07:34:00 Physician Resident Progress Note
Chief Complaint: Transfer from [**Hospital 94**] hospital for portex
   tracheostomy.
   24 Hour Events:
   - Goal PCo2=60% due to pt's underlying pickwickian syndome.  Decreased
   RR from 18 to 16 (TV=550).  ABG showed relatively unchanged p[**Name (NI) 134**] of 45
   to 46.  RR decreased further to 14 BPM and ABG shows 7.36/51/83.
   -UOP adequate after diuresis with Lasix, at MN fluid status was -2.7 L
   with stable BP
   - Thoracic Surgery has evaluated and plan for surgical tracheostomy +/-
   PEG (pending family discussion).
 INVASIVE VENTILATION - START [**2189-12-9**] 01:00 PM
 MULTI LUMEN - START [**2189-12-9**] 02:01 PM
   Pt came from Outside Hospital with this line which is reported to be
   seven days old.
 EKG - At [**2189-12-9**] 02:15 PM
 BLOOD CULTURED - At [**2189-12-9**] 02:58 PM
 URINE CULTURE - At [**2189-12-9**] 03:06 PM
 ARTERIAL LINE - START [**2189-12-9**] 10:53 PM
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2189-12-9**] 07:47 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-12-10**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 73 (66 - 81) bpm
   BP: 139/78(100){103/63(78) - 162/141(153)} mmHg
   RR: 14 (14 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                    862 mL
                                                                    368 mL
   PO:
             TF:
   IVF:
                                                                    862 mL
                                                                    368 mL
   Blood products:
   Total out:
                                                                  3,585 mL
                                                                    340 mL
   Urine:
                                                                  3,525 mL
                                                                    340 mL
   NG:
                                                                      0 mL
                                                                      0 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,723 mL
                                                                     28 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 396 (396 - 396) mL
   RR (Set): 14
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 37 cmH2O
   Plateau: 30 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 97%
   ABG: 7.36/51/82.[**Numeric Identifier 96**]/28/1
   Ve: 7.2 L/min
   PaO2 / FiO2: 166
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, Intubated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal, Distant), No(t) S3, No(t)
   S4, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   but distant)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   294 K/uL
   13.8 g/dL
   124 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.9 mEq/L
   9 mg/dL
   103 mEq/L
   143 mEq/L
   42.6 %
   5.6 K/uL
        [image002.jpg]
                             [**2189-12-9**]  02:11 PM
                             [**2189-12-9**]  02:51 PM
                             [**2189-12-9**]  11:26 PM
                             [**2189-12-10**]  04:42 AM
                             [**2189-12-10**]  06:06 AM
   WBC
   5.5
   5.6
   Hct
   42.7
   42.6
   Plt
   319
   294
   Cr
   0.7
   0.6
   TCO2
   29
   32
   30
   Glucose
   106
   124
   Other labs: PT / PTT / INR:12.6/25.5/1.1, Differential-Neuts:55.6 %,
   Lymph:30.4 %, Mono:7.2 %, Eos:6.3 %, Lactic Acid:1.0 mmol/L, Mg++:1.9
   mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]):
 RESPIRATORY FAILURE,
   CHRONIC [Acute on Chronic Resp failure]: Pt has chronic resp issues of
   (1) obesity hypovent. syndrome, (2)copd, (3)smoker.  Acute insult was
   likely a PNA.  Unclear why she has been unable to come off the vent.
   Possibly because she lives with a high CO2, which decreases her work of
   breathing.  Have attempted to reduce resp rate in attempt to bring CaO2
   to goal 60-65.  Transferred her for tracheostomy.
   -          increase sedation since pt breathing over the vent.  Change
   to fentanyl and versed for sedation.
   -          Check serial ABG and decrease RR to reach goal PCO2.  Also
   important to watch pH and make sure that she is buffering the increased
   CO2 with bicarb.  Therefore, may need to decrease RR slowly over the
   course of next day or two.
   -          Cont bronchodilators
   -          Cont beclomethasone inhalers
   -          f/u thoracic surgery recs for Tracheostomy
   -          because pt will likely be ventilated for prolonged period
   will need evaluation for nutritional support with PEG if family is
   interested.  Family meeting today will address these issues.
 OBESITY HYPOVENTILATION (PICKWICKIAN SYNDROME): as described above.
   Pt is a chronic CO2 retainer, and we will attempt to bring her CO2 back
   up by decreasing her RR on the vent.
   -          cont management as described above
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED: (VAP)Sputum Culture + MRSA
   PNA.
   -          continue vancomycin for 14 day course (first day [**2189-11-29**])
 BACTEREMIA: MRSA bacteremia.  No need for echo since pt has been
   afebrile and has not had persistently positive BCx.
   -          continue vanc for 14 day course
   -          culture if spikes
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   -          continue bronchodilators
   -          continue beclomethasone inhalers
   -          no need for systemic steroids
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA): likely
   contributing to pt
s underlying resp distress.
   -continue management of airway as described above
 OBSTRUCTIVE SLEEP APNEA (OSA): not an active issue while pt is
   ventilated.  Trachostomy will allow for better management of sleep
   apnea.
 DIABETES MELLITUS (DM), TYPE II: on Lantus 30/30 at OSH.  Gave lantus
   30 last night and 10 this AM
   -          monitor FS, and can increase to lantus 30/30 if needed
   -          continue HISS
   ICU Care
   Nutrition:
   -Nutrition recs for tube feeds.
   -Discuss PEG with family today
   Glycemic Control:  lantus [**9-16**] and HISS
   Lines:
   Multi Lumen - [**2189-12-9**] 02:01 PM
   Arterial Line - [**2189-12-9**] 10:53 PM
   Prophylaxis:
   DVT: heparin sc, p-boots
   Stress ulcer: protonix IV
   VAP:  vancomycin
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for continued management of acute on chronic resp
   failure

2189-12-10 09:56:00 Physician Attending Progress Note
Chief Complaint: Acute on chronic respiratory failure,
   obesity-hypoventilation syndrome, COPD, MRSA pneumonia,
   tracheobronchomalacia.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient diuresed yesterday very effectively. Ventilator being adjusted
   to achieve PaCO2=60-65 with appropriate renal compensation.
   Hemodynamically stable.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2189-12-9**] 01:00 PM
 MULTI LUMEN - START [**2189-12-9**] 02:01 PM
   Pt came from Outside Hospital with this line which is reported to be
   seven days old.
 EKG - At [**2189-12-9**] 02:15 PM
 BLOOD CULTURED - At [**2189-12-9**] 02:58 PM
 URINE CULTURE - At [**2189-12-9**] 03:06 PM
 ARTERIAL LINE - START [**2189-12-9**] 10:53 PM
   History obtained from Medical records
   Patient unable to provide history: Intubated and ventilated.
   Allergies:
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2189-12-10**] 08:06 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2189-12-10**] 09:09 AM
   Other medications:
   albuterol
   colace
   fluconazole powder
   MVI
   heparin sc
   protonix
   insulin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-12-10**] 09:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 67 (66 - 81) bpm
   BP: 111/68(85){103/63(78) - 162/141(153)} mmHg
   RR: 14 (14 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                    862 mL
                                                                    833 mL
   PO:
             TF:
   IVF:
                                                                    862 mL
                                                                    783 mL
   Blood products:
   Total out:
                                                                  3,585 mL
                                                                  1,015 mL
   Urine:
                                                                  3,525 mL
                                                                  1,015 mL
   NG:
                                                                      0 mL
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,723 mL
                                                                   -182 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 396 (396 - 396) mL
   RR (Set): 14
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 37 cmH2O
   Plateau: 30 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 95%
   ABG: 7.36/51/82.[**Numeric Identifier 96**]/28/1
   Ve: 7.2 L/min
   PaO2 / FiO2: 166
   Physical Examination
   General Appearance: No(t) No acute distress, Overweight / Obese, No(t)
   Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: Heart sounds soft. No gallop or murmur. PMI diffuse
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , Diminished: , No(t) Absent : , No(t) Rhonchorous: ), Breath
   sounds diminished.
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese, Diminished bowel sounds
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: No spontaneous movement, Sedated, No(t)
   Paralyzed
   Labs / Radiology
   13.8 g/dL
   294 K/uL
   124 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.9 mEq/L
   9 mg/dL
   103 mEq/L
   143 mEq/L
   42.6 %
   5.6 K/uL
        [image002.jpg]
                             [**2189-12-9**]  02:11 PM
                             [**2189-12-9**]  02:51 PM
                             [**2189-12-9**]  11:26 PM
                             [**2189-12-10**]  04:42 AM
                             [**2189-12-10**]  06:06 AM
   WBC
   5.5
   5.6
   Hct
   42.7
   42.6
   Plt
   319
   294
   Cr
   0.7
   0.6
   TCO2
   29
   32
   30
   Glucose
   106
   124
   Other labs: PT / PTT / INR:12.6/25.5/1.1, Differential-Neuts:55.6 %,
   Lymph:30.4 %, Mono:7.2 %, Eos:6.3 %, Lactic Acid:1.0 mmol/L, Ca++:9.3,
   Mg++:1.9 mg/dL, PO4:5.0 mg/dL
   Imaging: CXR: no focal infiltrates (difficult to interpret given
   patient's body habitus)
   Microbiology: Blood cultures pending.
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 RESPIRATORY FAILURE, CHRONIC
 OBESITY HYPOVENTILATION (PICKWICKIAN SYNDROME)
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
   Sputum Culture + MRSA PNA
 BACTEREMIA
   MRSA bacteremia
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 OBSTRUCTIVE SLEEP APNEA (OSA)
 DIABETES MELLITUS (DM), TYPE II
   Still on vent with PaCO2 closer to our goal. Patient is now
   over-breathing the ventilator, thus we  will need to increase sedation
   in order to enable us to reduce the respiratory rate further; go down
   from rate of 16 to 14 today. Kidneys compensating appropriately. Would
   continue to diurese the patient; BUN/Creat ratio still normal - aim for
   1-2L negative fluid balance. Patient to go for tracheostomy today.
   No evidence of bronchospasm by exam. Continue inhaled bronchodilators.
   Maintain antibiotics for MRSA pneumonia and bacteremia. Patient
   afebrile.WBC normal. PICC line placed. Subclavian line to be removed.
   Continue on insulin. Blood sugars in reasonable range.
   ICU Care
   Nutrition:
   Comments: Tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2189-12-9**] 02:01 PM
   Arterial Line - [**2189-12-9**] 10:53 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments: Not ready for RSBI given PaCO2.
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2189-12-11 06:51:00 Physician Resident Progress Note
Chief Complaint: transferred from OSH for tracheostomy
   24 Hour Events:
   Trach and PEG scheduled for today (add-on, to West OR schedule)
   Thoracics consented husband for the trach/PEG
   PICC in place
   D/C'ed propofol
   Advanced ETT, difficult CXR but rads gave blessing to current position
   This am urine output slowed down somewhat, but overall had good output
   yesterday after am total dose of 120 mg IV lasix. This am getting am
   dose of 40 while pre-op, re-eval before rounds.
 MULTI LUMEN - STOP [**2189-12-10**] 10:00 AM
   Pt came from Outside Hospital with this line which is reported to be
   seven days old.
   LSC d/c
d yesterday
 PICC LINE - START [**2189-12-10**] 10:29 AM
   Allergies:
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2189-12-10**] 08:06 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2189-12-10**] 09:09 AM
   Other medications:
   Rosuvastatin
   Insulin
   Beclamethasone
   Pantoprazole
   Furosemide 40 IV daily
   Albuterol/atrovent
   Docusate
   Mtv
   Heparin SQ
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: none
   Flowsheet Data as of  [**2189-12-11**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.9
   HR: 77 (67 - 85) bpm
   BP: 128/76(96){105/63(79) - 153/90(114)} mmHg
   RR: 12 (12 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,326 mL
                                                                    137 mL
   PO:
             TF:
                                                                    112 mL
                                                                      3 mL
   IVF:
                                                                  1,129 mL
                                                                    104 mL
   Blood products:
   Total out:
                                                                  2,900 mL
                                                                    195 mL
   Urine:
                                                                  2,900 mL
                                                                    195 mL
   NG:
                                                                     85 mL
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,574 mL
                                                                    -58 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 12
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 33 cmH2O
   Plateau: 28 cmH2O
   Compliance: 27.5 cmH2O/mL
   SpO2: 96%
   ABG: 7.35/57/89.[**Numeric Identifier 128**]/29/3   [**12-10**] ABG: 7.36/51/83
   Ve: 7.3 L/min
   PaO2 / FiO2: 178
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   260 K/uL
   14.1 g/dL
   155 mg/dL
   0.6 mg/dL
   29 mEq/L
   5.1 mEq/L
   10 mg/dL
   106 mEq/L
   144 mEq/L
   42.4 %
   5.9 K/uL
        [image002.jpg]
                             [**2189-12-9**]  02:11 PM
                             [**2189-12-9**]  02:51 PM
                             [**2189-12-9**]  11:26 PM
                             [**2189-12-10**]  04:42 AM
                             [**2189-12-10**]  06:06 AM
                             [**2189-12-10**]  03:35 PM
                             [**2189-12-10**]  03:50 PM
                             [**2189-12-11**]  04:37 AM
                             [**2189-12-11**]  04:48 AM
   WBC
   5.5
   5.6
   5.9
   Hct
   42.7
   42.6
   42.4
   Plt
   [**Telephone/Fax (3) 193**]
   Cr
   0.7
   0.6
   0.7
   0.6
   TCO2
   29
   32
   30
   33
   33
   Glucose
   106
   124
   137
   155
   Other labs: PT / PTT / INR:12.4/26.0/1.0, ALT / AST:31/39, Alk Phos / T
   Bili:69/0.5, Differential-Neuts:55.6 %, Lymph:30.4 %, Mono:7.2 %,
   Eos:6.3 %, Lactic Acid:1.0 mmol/L, Mg++:2.2 mg/dL, PO4:4.8 mg/dL  Ca
   8.9
   [**11-10**] Vanco Trough: 13.1
   MICRO:
   [**12-10**] LCS CVL tip Cx: pending
   [**12-9**] Blood Cx: NGTD
   [**12-9**] Urine: 10-100,000 yeast
   Rads:
   [**12-11**] CXR: pending
   [**12-10**]: CXR: ETT in good position,persistant mod-severe pulmonary edema
   and L retrocardiac consolidation with air bronchograms
   Assessment and Plan
   47 yo F with PMH of OSA (on home CPAP), obesity hypoventilation
   syndrome and COPD, initially admitted to [**Hospital **] hospital [**2189-11-20**]
   with respiratory distress, found to have MRSA pneumonia/bacteremia,
   transferred for tracheostomy.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]):most likely due to acute
   MRSA PNA in setting of chronic obesity hypovent. Syndrome and copd.
   She has been unable to come off vent likely [**12-19**] underlying lung dz and
   chronic CO2 retention.   In addition, she normally has a high CO2,
   which decreases her work of breathing, but since being intubated has
   been maintained at a lower CO2 level than she is used to.  Have
   attempted to reduce resp rate in attempt to bring CaO2 to goal 60-65.
   She did well overnight, not overbreathing the vent to a significant
   degree, increase in CO2 from 51 to 57.
   -          increased sedation yesterday since pt breathing over the
   vent.  Change to fentanyl and versed for sedation, continue with
   current dose of sedatives.  Will decrease TV to 500 in order to attempt
   to further increase CO2.  Check pm ABG to monitor progress.
   -          monitor pH and make sure that she is buffering the increased
   CO2 with bicarb.
   -          Cont bronchodilators
   -          Cont beclomethasone inhalers
   -          To West OR for  Tracheostomy today
   -          Resume diuresis following trach/peg as likely volume
   overloaded
 OBESITY HYPOVENTILATION (PICKWICKIAN SYNDROME): as described above.
   Pt is a chronic CO2 retainer, and we will attempt to bring her CO2 back
   up by decreasing her RR on the vent, with goal of decreasing her work
   of breathing.
   -          cont management as described above, goal CO2 60-65
   -          monitor pH, HCO3
 PNEUMONIA, BACTERIAL: Bronchial washings following intubation at OSH
   positive for MRSA PNA.
   -          continue vancomycin for 14 day course (first day [**2189-11-29**])
 BACTEREMIA: MRSA bacteremia.  No need for echo since pt has been
   afebrile and has not had persistently positive BCx, bacteremia may have
   been [**12-19**] line infection given culture of initial CVL line tip from OSH
   with multiple colonies of GPC.
   -          continue vanc for 14 day course (last day [**12-16**])
   -          culture if spikes
   -          consider TTE if fever/bacteremia once ABX course completed
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   -          continue bronchodilators
   -          continue beclomethasone inhalers
   -          no need for systemic steroids
   -          increase CO2 as above
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA): collapsing
   airways seen on bronchoscopy at OSH, likely contributing to pt
   underlying resp distress.
   -continue management of airway as described above
 OBSTRUCTIVE SLEEP APNEA (OSA): not an active issue while pt is
   ventilated.  Trachostomy will allow for better management of sleep
   apnea.
 DIABETES MELLITUS (DM), TYPE II: on Lantus 30/30 at OSH.  Currently
   on Lantus 10QAM, 30QHS and HISS
   -          monitor FS, and can increase to lantus 30/30 if needed
   -          continue HISS
   ICU Care
   Nutrition:
   -Nutrition: scheduled for PEG placement today; resume tube feeds via
   PEG tube tonight
   Glycemic Control:  lantus [**9-16**] and HISS
   Lines: R PICC [**11-10**]
   Arterial Line - [**2189-12-9**] 10:53 PM
   Prophylaxis:
   DVT: heparin sc, p-boots
   Stress ulcer: protonix IV
   VAP:  vancomycin, reverse trendelenberg
   Comments:
   Communication:  Comments: husband
   [**Name (NI) 66**] status: Full code
   Disposition: ICU for continued management of acute on chronic resp
   failure

2189-12-11 10:50:00 Physician Attending Progress Note
Chief Complaint: Acute on chronic respiratory failure,
   obesity-hypoventilation syndrome, OSA, MRSA pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Scheduled for PEG and trach today. Vent adjustments have resulted in
   PaCO2=57 by this AM. Received lasix with good urine output.
   24 Hour Events:
 MULTI LUMEN - STOP [**2189-12-10**] 10:00 AM
   Pt came from Outside Hospital with this line which is reported to be
   seven days old.
 PICC LINE - START [**2189-12-10**] 10:29 AM
   History obtained from Medical records
   Patient unable to provide history: Intubated and ventilated
   Allergies:
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2189-12-10**] 08:06 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Other medications:
   lasix, albuterol, atrovent, MVI, heparin sc, protonix, beclomethasone,
   insulin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-12-11**] 10:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.8
   HR: 70 (69 - 85) bpm
   BP: 122/71(90){105/63(79) - 143/84(114)} mmHg
   RR: 13 (12 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,326 mL
                                                                    250 mL
   PO:
             TF:
                                                                    112 mL
                                                                      3 mL
   IVF:
                                                                  1,129 mL
                                                                    156 mL
   Blood products:
   Total out:
                                                                  2,900 mL
                                                                    585 mL
   Urine:
                                                                  2,900 mL
                                                                    585 mL
   NG:
                                                                     85 mL
                                                                     90 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,574 mL
                                                                   -335 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 12
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 35 cmH2O
   Plateau: 30 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 95%
   ABG: 7.35/57/89.[**Numeric Identifier 128**]/29/3
   Ve: 7.1 L/min
   PaO2 / FiO2: 178
   Physical Examination
   Intubated and sedated. OG and ETT in place. Chest exam with decreased
   breath sounds. No wheezes. I/E=1.1.5. Heart sounds distant. No gallop
   or murmur noted. Abdomen obese. Active bowel sounds. Soft, nontender.
   2+ edema peripherally. No rash. Sedated; not responsive.
   Labs / Radiology
   14.1 g/dL
   260 K/uL
   155 mg/dL
   0.6 mg/dL
   29 mEq/L
   5.1 mEq/L
   10 mg/dL
   106 mEq/L
   144 mEq/L
   42.4 %
   5.9 K/uL
        [image002.jpg]
                             [**2189-12-9**]  02:11 PM
                             [**2189-12-9**]  02:51 PM
                             [**2189-12-9**]  11:26 PM
                             [**2189-12-10**]  04:42 AM
                             [**2189-12-10**]  06:06 AM
                             [**2189-12-10**]  03:35 PM
                             [**2189-12-10**]  03:50 PM
                             [**2189-12-11**]  04:37 AM
                             [**2189-12-11**]  04:48 AM
   WBC
   5.5
   5.6
   5.9
   Hct
   42.7
   42.6
   42.4
   Plt
   [**Telephone/Fax (3) 193**]
   Cr
   0.7
   0.6
   0.7
   0.6
   TCO2
   29
   32
   30
   33
   33
   Glucose
   106
   124
   137
   155
   Other labs: PT / PTT / INR:12.4/26.0/1.0, ALT / AST:31/39, Alk Phos / T
   Bili:69/0.5, Differential-Neuts:55.6 %, Lymph:30.4 %, Mono:7.2 %,
   Eos:6.3 %, Lactic Acid:1.0 mmol/L, Mg++:2.2 mg/dL, PO4:4.8 mg/dL
   Imaging: CXR: poor technique. Density at left base obscuring left
   hemidiphragm.
   Microbiology: Left subclavian tip: pending
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   scheduled for trach in OR by thoracic surgery on Fri
 OBESITY HYPOVENTILATION (PICKWICKIAN SYNDROME)
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
   Sputum Culture + MRSA PNA
 BACTEREMIA
   MRSA bacteremia
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 OBSTRUCTIVE SLEEP APNEA (OSA)
 DIABETES MELLITUS (DM), TYPE II
   We are nearing our target PaCO2; would like to see it at 65 before we
   begin efforts to wean from ventilatory support. Kidneys continue to
   compensate appropriately for her respiratory acidosis. Will come down a
   bit on her tidal volume and rate to achieve the target PaCO2 following
   tracheostomy.
   Continue diuresis; BUN and creatinine still well within the normal
   range.
   Continue bronchodilators. No wheezes on exam.
   Maintain antibiotics for pneumonia and/or possible line infection. WBC
   normal. Afebrile.
   Tube feeds held for tracheostomy.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2189-12-9**] 10:53 PM
   PICC Line - [**2189-12-10**] 10:29 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2189-12-12 06:55:00 Physician Resident Progress Note
Chief Complaint: Presented from OSH for tracheostomy
   24 Hour Events:
   -didn't go for trach as planned on Fri, now reshceduled for Mon?
   -diuresed yesterday goal -1.5L, got 80IVx1  40IVx2 lasix; -640ml at
   midnight;
   -Vanco trough low, got extra 500mg IV [**Doctor Last Name 251**] last night, will need to
   increase dose likely
   -CO2 went down from 58 -> 55 even though TV was decreased; attempted to
   titrate up sedation to control RR however limited due to borderline BP
 ARTERIAL LINE - STOP [**2189-12-12**] 01:15 AM
 UNPLANNED LINE/CATHETER REMOVAL (NON-PATIENT INITATED) - At
   [**2189-12-12**] 01:30 AM
   A-line was kinked & only loosely sutured in. With turning, it slipped
   ou too far to be transduce. Intern ([**First Name8 (NamePattern2) 252**] [**Last Name (NamePattern1) 75**] MD ) aware.
   Patient unable to provide history: Sedated
   Allergies:
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2189-12-12**] 01:27 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2189-12-12**] 03:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-12-12**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 96 (65 - 96) bpm
   BP: 113/40(80){103/40(64) - 116/67(80)} mmHg
   RR: 23 (12 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,050 mL
                                                                    691 mL
   PO:
             TF:
                                                                    209 mL
                                                                    204 mL
   IVF:
                                                                    671 mL
                                                                    437 mL
   Blood products:
   Total out:
                                                                  1,690 mL
                                                                    805 mL
   Urine:
                                                                  1,690 mL
                                                                    805 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -640 mL
                                                                   -114 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 550) mL
   RR (Set): 12
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 32 cmH2O
   Plateau: 26 cmH2O
   Compliance: 27.8 cmH2O/mL
   SpO2: 97%
   ABG: 7.35/55/81.[**Numeric Identifier 253**]/32/2
   Ve: 8.1 L/min
   PaO2 / FiO2: 164
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube,
   obese neck, unable to evaluate JVP
   Lymphatic: unable to evaluate [**12-19**] neck obesity
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Crackles : , Bronchial: , Wheezes : insp wheeze, at bil upper lung
   fields)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 1+, Left: 1+, 1+ upper ext edema bil
   Skin:  Not assessed, Rash: Hyperemic dorsum of bil feet
   Neurologic: No(t) Follows simple commands, Responds to: Unresponsive,
   Movement: No spontaneous movement, Sedated, Tone: Not assessed
   Labs / Radiology
   282 K/uL
   13.8 g/dL
   192 mg/dL
   0.6 mg/dL
   32 mEq/L
   4.2 mEq/L
   11 mg/dL
   100 mEq/L
   141 mEq/L
   43.4 %
   5.7 K/uL
        [image002.jpg]
                             [**2189-12-9**]  11:26 PM
                             [**2189-12-10**]  04:42 AM
                             [**2189-12-10**]  06:06 AM
                             [**2189-12-10**]  03:35 PM
                             [**2189-12-10**]  03:50 PM
                             [**2189-12-11**]  04:37 AM
                             [**2189-12-11**]  04:48 AM
                             [**2189-12-11**]  01:26 PM
                             [**2189-12-11**]  07:48 PM
                             [**2189-12-12**]  04:52 AM
   WBC
   5.6
   5.9
   5.7
   Hct
   42.6
   42.4
   43.4
   Plt
   294
   260
   282
   Cr
   0.6
   0.7
   0.6
   0.6
   TCO2
   32
   30
   33
   33
   33
   32
   Glucose
   124
   137
   155
   192
   Other labs: PT / PTT / INR:12.4/23.9/1.0, ALT / AST:31/39, Alk Phos / T
   Bili:69/0.5, Differential-Neuts:55.6 %, Lymph:30.4 %, Mono:7.2 %,
   Eos:6.3 %, Lactic Acid:1.0 mmol/L, Ca++:9.5 mg/dL, Mg++:2.4 mg/dL,
   PO4:5.0 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]): scheduled for trach/peg in
   OR on [**Hospital Ward Name **] by thoracic surgery on Tuesday.  Contributing factors
   include obesity hypoventilation syndrome, COPD, smoking history.  Pt is
   a CO2 retainer at baseline contributing to difficulty weaning the
   vent.  Pt was attempted on PS, but failed due to tachypnea.
   - Will attempt to restart PS in AM
   - monitor ABG
   - continue bronchodilators and inhaled steroids
   - continue diuresis
 OBESITY HYPOVENTILATION (PICKWICKIAN SYNDROME): as dscribed above,
   likely contributing to pt
s difficulty weaning off the vent.
   - continue management as above
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP): Sputum Culture +
   MRSA PNA.  Today is last day of 14 day course of vancomycin.
   -          D/C vancomycin tomorrow
   -          After d/c monitor for signs of infection
 BACTEREMIA: MRSA bacteremia at OSH, likely [**12-19**] MRSA PNA.  Completed
   14 days vancomycin today.
   -          D/C vancomycin tomorrow
   -          After d/c monitor for signs of infection
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION:
   -continued management with bronchodilators and inhaled steroids as
   above
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA): Likely
   contributing to pt
s underlying resp distress.
   - continue management as above.
 OBSTRUCTIVE SLEEP APNEA (OSA): One benefit of trach in this pt will
   be for better management of her difficult-to-treat sleep apnea.  Not an
   active issue now, as she is intubated.
 DIABETES MELLITUS (DM), TYPE II: continue insulin SS and lantus.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2189-12-11**] 03:42 PM 30 mL/hour
   Glycemic Control:  insulin ss, lantus standing
   Lines:
   PICC Line - [**2189-12-10**] 10:29 AM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: PPI IV
   VAP:  HOB @30 degrees
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: MICU

2189-12-12 12:01:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   47 year old female who presented from outside hospital for tracheostomy
   (see initial H and P for full details).
   24 Hour Events:
 ARTERIAL LINE - STOP [**2189-12-12**] 01:15 AM
 UNPLANNED LINE/CATHETER REMOVAL (NON-PATIENT INITATED) - At
   [**2189-12-12**] 01:30 AM
   A-line was kinked & only loosely sutured in. With turning, it slipped
   ou too far to be transduce.
   - diuresed yesterday
   Allergies:
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2189-12-12**] 09:00 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2189-12-12**] 09:00 AM
   Other medications:
   Insulin
   Lasix
   Albuterol/atrovent
   Heparin SQ
   Protonix
   Beclamethasone
   Crestor
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-12-12**] 11:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 81 (65 - 96) bpm
   BP: 107/56(69){99/40(61) - 116/67(80)} mmHg
   RR: 15 (12 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  3,051 mL
                                                                  2,997 mL
   PO:
             TF:
                                                                    210 mL
                                                                    377 mL
   IVF:
                                                                  2,671 mL
                                                                  2,495 mL
   Blood products:
   Total out:
                                                                  1,690 mL
                                                                  1,295 mL
   Urine:
                                                                  1,690 mL
                                                                  1,295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,361 mL
                                                                  1,702 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 30 cmH2O
   Plateau: 26 cmH2O
   Compliance: 27.8 cmH2O/mL
   SpO2: 94%
   ABG: 7.35/55/81.[**Numeric Identifier 253**]/32/2
   Ve: 7.1 L/min
   PaO2 / FiO2: 164
   Physical Examination
   General: Obsese, intubated
   Chest: Clear to auscultation bilaterally
   Heart: S1,S2 reg
   Abd: Soft, NT ND, obsese
   Neurologic: unresponsive/sedated
   Labs / Radiology
   13.8 g/dL
   282 K/uL
   192 mg/dL
   0.6 mg/dL
   32 mEq/L
   4.2 mEq/L
   11 mg/dL
   100 mEq/L
   141 mEq/L
   43.4 %
   5.7 K/uL
        [image002.jpg]
                             [**2189-12-9**]  11:26 PM
                             [**2189-12-10**]  04:42 AM
                             [**2189-12-10**]  06:06 AM
                             [**2189-12-10**]  03:35 PM
                             [**2189-12-10**]  03:50 PM
                             [**2189-12-11**]  04:37 AM
                             [**2189-12-11**]  04:48 AM
                             [**2189-12-11**]  01:26 PM
                             [**2189-12-11**]  07:48 PM
                             [**2189-12-12**]  04:52 AM
   WBC
   5.6
   5.9
   5.7
   Hct
   42.6
   42.4
   43.4
   Plt
   294
   260
   282
   Cr
   0.6
   0.7
   0.6
   0.6
   TCO2
   32
   30
   33
   33
   33
   32
   Glucose
   124
   137
   155
   192
   Other labs: PT / PTT / INR:12.4/23.9/1.0, ALT / AST:31/39, Alk Phos / T
   Bili:69/0.5, Differential-Neuts:55.6 %, Lymph:30.4 %, Mono:7.2 %,
   Eos:6.3 %, Lactic Acid:1.0 mmol/L, Ca++:9.5 mg/dL, Mg++:2.4 mg/dL,
   PO4:5.0 mg/dL
   Assessment and Plan
   1- RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   scheduled for trach in OR by thoracic surgery early next week.  In the
   meantime, will continue to attempt to wean and will switch over to
   pressure support ventilation
   2-  OBESITY HYPOVENTILATION (PICKWICKIAN SYNDROME)
   3- PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
   Sputum Culture + MRSA PNA
      Plan: continue vancomycin
 BACTEREMIA (MRSA)
      Plan: Continue vancomycin
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 OBSTRUCTIVE SLEEP APNEA (OSA)
 DIABETES MELLITUS (DM), TYPE II
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2189-12-12**] 09:43 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2189-12-10**] 10:29 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2189-12-13 08:11:00 Physician Resident Progress Note
Chief Complaint: Presented from OSH for tracheostomy in setting of
   persistent resp failure and past MRSA bacteremia
   24 Hour Events:
   - Fluid goal negative 1 L, but still + 997 after Lasix 80 IV at MN.
   Gave additional Lasix 120 and @5AM -822
   - Sedation was increased and repeat ABG 7.36/69/78, which was close to
   goal of ph 7.35 and CO2 60-65
   - despite this hypercapnea, RSBI was still 161 this AM.  Pt became
   agitated, biting the tube and sedation had to be increased
   - Vancomycin was D/Ced since pt has completed a 14 day course for
   treatement of MRSA PNA/Bacteremia
   Allergies:
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2189-12-12**] 08:00 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2189-12-13**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: Tube feeds
   Genitourinary: Foley
   Flowsheet Data as of  [**2189-12-13**] 08:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 78 (67 - 83) bpm
   BP: 113/63(36){96/46(36) - 130/77(90)} mmHg
   RR: 14 (13 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  3,864 mL
                                                                    313 mL
   PO:
             TF:
                                                                    703 mL
                                                                     90 mL
   IVF:
                                                                  2,966 mL
                                                                    173 mL
   Blood products:
   Total out:
                                                                  2,867 mL
                                                                  1,545 mL
   Urine:
                                                                  2,867 mL
                                                                  1,545 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    997 mL
                                                                 -1,232 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 366 (0 - 366) mL
   RR (Set): 12
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 160
   PIP: 32 cmH2O
   Plateau: 25 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 97%
   ABG: 7.36/69/77.[**Numeric Identifier 96**]/33/9
   Ve: 6.9 L/min
   PaO2 / FiO2: 156
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Absent), (S2: Distant), heart sounds not heard;
   regular on monitor
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   , Rhonchorous: ), moving air bilaterally
   Abdominal: Distended, Obese
   Extremities: Right: Absent, Left: Absent, contracted "prune"-wrinkles
   of skin at feet
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   245 K/uL
   14.0 g/dL
   271 mg/dL
   0.8 mg/dL
   33 mEq/L
   4.2 mEq/L
   16 mg/dL
   98 mEq/L
   139 mEq/L
   43.7 %
   5.2 K/uL
        [image002.jpg]
                             [**2189-12-10**]  06:06 AM
                             [**2189-12-10**]  03:35 PM
                             [**2189-12-10**]  03:50 PM
                             [**2189-12-11**]  04:37 AM
                             [**2189-12-11**]  04:48 AM
                             [**2189-12-11**]  01:26 PM
                             [**2189-12-11**]  07:48 PM
                             [**2189-12-12**]  04:52 AM
                             [**2189-12-13**]  03:26 AM
                             [**2189-12-13**]  04:49 AM
   WBC
   5.9
   5.7
   5.2
   Hct
   42.4
   43.4
   43.7
   Plt
   [**Telephone/Fax (3) 288**]
   Cr
   0.7
   0.6
   0.6
   0.8
   TCO2
   30
   33
   33
   33
   32
   41
   Glucose
   137
   155
   192
   271
   Other labs: PT / PTT / INR:12.5/21.3/1.1, ALT / AST:31/39, Alk Phos / T
   Bili:69/0.5, Differential-Neuts:55.6 %, Lymph:30.4 %, Mono:7.2 %,
   Eos:6.3 %, Lactic Acid:1.0 mmol/L, Ca++:10.0 mg/dL, Mg++:1.9 mg/dL,
   PO4:5.3 mg/dL
   Assessment and Plan
   47 year old morbidly obese female smoker with COPD, sleep apnea,
   obesity hypoventilation, coming to us after being intubated at an OSH
   for pneumonia/respiratory failure, now to get tracheostomy from
   thoracics service.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]);
 CHRONIC OBSTRUCTIVE
   PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA) WITH ACUTE
   EXACERBATION;
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA);
 OBESITY HYPOVENTILATION (PICKWICKIAN SYNDROME)
   Pt recovering from PNA
see below. Significant chronic lung disease,
   including only slowly reversible factors like damage to lung parenchyma
   and chronic inflammation from smoking, and impact on chest wall of
   severe obesity. Team
s goal has been to actually raise CO2 levels
   slightly in order to reduce work of breathing in context of large chest
   wall burden. Making progress on this; nonetheless, her RSBI remains
   poor and her P/F ratio also remains low.
   Will work on getting pt to the West
will need special bed ordered in
   advance, ambulance large enough; if these are not in place, and pt
   continues to be add-on to thoracic schedule, she might have
   considerable delays, while if we can get her West she is more likely to
   be able to be added on prior to her now scheduled Tuesday tracheostomy.
   Given hx of tracheomalacia, she will almost certainly need the
   tracheostomy if she is to improve from her current state of heatlh.
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP);
 BACTEREMIA
   Sputum Culture + MRSA PNA
continuing vanco for 14 days after line
   pulled, based on likelihood that this was source; therefore we need to
   restart vanco and continue for additional days to complete the course.
 DIABETES MELLITUS (DM), TYPE II
   Continue lantus and HISS
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:
   Lines: PICC Line - [**2189-12-10**] 10:29 AM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   ADDENDUM:
   * Line pulled [**12-2**]
this should be considered day 1 of the 14 day course
   of vancomycin
   * Patient has been constipated; adding bowel regimen
   ------ Protected Section Addendum Entered By:[**Name (NI) 326**] [**Last Name (NamePattern1) 91**], MD
   on:[**2189-12-14**] 01:45 ------

2189-12-13 16:07:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   See initial H and P
   24 Hour Events:
   Overnight, unable to be maintained on pressure support and placed back
   on AC
   Had sedation off this AM again but bit endotracheal tube, became
   hypoxic, and was re-sedated
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2189-12-12**] 08:00 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2189-12-13**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-12-13**] 04:05 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (99
   HR: 81 (67 - 83) bpm
   BP: 122/69(81){99/53(36) - 130/77(90)} mmHg
   RR: 13 (13 - 15) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  3,864 mL
                                                                    882 mL
   PO:
             TF:
                                                                    703 mL
                                                                    440 mL
   IVF:
                                                                  2,966 mL
                                                                    317 mL
   Blood products:
   Total out:
                                                                  2,867 mL
                                                                  2,480 mL
   Urine:
                                                                  2,867 mL
                                                                  2,480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    997 mL
                                                                 -1,598 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 2
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 160
   PIP: 30 cmH2O
   Plateau: 26 cmH2O
   Compliance: 27.8 cmH2O/mL
   SpO2: 95%
   ABG: 7.36/69/77.[**Numeric Identifier 96**]/33/9
   Ve: 6.3 L/min
   PaO2 / FiO2: 156
   Physical Examination
   General Appearance: Overweight / Obese, intubated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: )
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   14.0 g/dL
   245 K/uL
   271 mg/dL
   0.8 mg/dL
   33 mEq/L
   4.2 mEq/L
   16 mg/dL
   98 mEq/L
   139 mEq/L
   43.7 %
   5.2 K/uL
        [image002.jpg]
                             [**2189-12-10**]  06:06 AM
                             [**2189-12-10**]  03:35 PM
                             [**2189-12-10**]  03:50 PM
                             [**2189-12-11**]  04:37 AM
                             [**2189-12-11**]  04:48 AM
                             [**2189-12-11**]  01:26 PM
                             [**2189-12-11**]  07:48 PM
                             [**2189-12-12**]  04:52 AM
                             [**2189-12-13**]  03:26 AM
                             [**2189-12-13**]  04:49 AM
   WBC
   5.9
   5.7
   5.2
   Hct
   42.4
   43.4
   43.7
   Plt
   [**Telephone/Fax (3) 288**]
   Cr
   0.7
   0.6
   0.6
   0.8
   TCO2
   30
   33
   33
   33
   32
   41
   Glucose
   137
   155
   192
   271
   Other labs: PT / PTT / INR:12.5/21.3/1.1, ALT / AST:31/39, Alk Phos / T
   Bili:69/0.5, Differential-Neuts:55.6 %, Lymph:30.4 %, Mono:7.2 %,
   Eos:6.3 %, Lactic Acid:1.0 mmol/L, Ca++:10.0 mg/dL, Mg++:1.9 mg/dL,
   PO4:5.3 mg/dL
   Assessment and Plan
   1) Respiratory Failure
       A) Obesity hypoventilation/OSA
       B) COPD
       C) Pneumonia
       D) Tracheomalacia
       Plan: Trach planned for Tues in OR by thoracic surgery
                Continue diuresis
                Attempt pressure support if will tolerate
                Wean Fio2 to .40 if tolerates
   2) MRSA bacteremia
      Plan: Vancomycin
   3) DM type II, uncontrolled
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2189-12-10**] 10:29 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2189-12-14 08:01:00 Physician Resident Progress Note
Chief Complaint: pneumonia/trach placement
   24 Hour Events:
   RNs made plan for pt to be transferred to West--special bed for large
   people in place there, large ambulance has been booked for tomorrow am.
   Allergies:
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2189-12-13**] 11:36 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2189-12-13**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-12-14**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.7
   HR: 89 (76 - 97) bpm
   BP: 121/68(80){101/54(64) - 126/73(85)} mmHg
   RR: 16 (10 - 17) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  2,668 mL
                                                                    432 mL
   PO:
             TF:
                                                                    551 mL
                                                                    239 mL
   IVF:
                                                                  1,761 mL
                                                                    143 mL
   Blood products:
   Total out:
                                                                  2,939 mL
                                                                  2,217 mL
   Urine:
                                                                  2,939 mL
                                                                  2,217 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -271 mL
                                                                 -1,785 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 3
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 150
   PIP: 33 cmH2O
   Plateau: 26 cmH2O
   Compliance: 27.8 cmH2O/mL
   SpO2: 96%
   ABG: ////
   Ve: 7 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 1+, Left: 1+, brisk capillary refill b/l
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice, scar over left knee
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, flutters eyelids when spoken to
   Labs / Radiology
   171 K/uL
   14.7 g/dL
   271 mg/dL
   0.8 mg/dL
   33 mEq/L
   4.2 mEq/L
   16 mg/dL
   98 mEq/L
   139 mEq/L
   45.0 %
   6.6 K/uL
        [image002.jpg]
                             [**2189-12-10**]  03:35 PM
                             [**2189-12-10**]  03:50 PM
                             [**2189-12-11**]  04:37 AM
                             [**2189-12-11**]  04:48 AM
                             [**2189-12-11**]  01:26 PM
                             [**2189-12-11**]  07:48 PM
                             [**2189-12-12**]  04:52 AM
                             [**2189-12-13**]  03:26 AM
                             [**2189-12-13**]  04:49 AM
                             [**2189-12-14**]  06:37 AM
   WBC
   5.9
   5.7
   5.2
   6.6
   Hct
   42.4
   43.4
   43.7
   45.0
   Plt
   [**Telephone/Fax (3) 332**]71
   Cr
   0.7
   0.6
   0.6
   0.8
   TCO2
   33
   33
   33
   32
   41
   Glucose
   137
   155
   192
   271
   Other labs: PT / PTT / INR:12.5/21.3/1.1, ALT / AST:31/39, Alk Phos / T
   Bili:69/0.5, Differential-Neuts:55.6 %, Lymph:30.4 %, Mono:7.2 %,
   Eos:6.3 %, Lactic Acid:1.0 mmol/L, Ca++:10.0 mg/dL, Mg++:1.9 mg/dL,
   PO4:5.3 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   scheduled for trach in OR by thoracic surgery on Fri
 OBESITY HYPOVENTILATION (PICKWICKIAN SYNDROME)
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
   Sputum Culture + MRSA PNA
 BACTEREMIA
   MRSA bacteremia
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 OBSTRUCTIVE SLEEP APNEA (OSA)
 DIABETES MELLITUS (DM), TYPE II
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2189-12-10**] 10:29 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2189-12-14 11:17:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Plan for transfer West for trache
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2189-12-14**] 08:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-12-14**] 11:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 92 (81 - 97) bpm
   BP: 122/69(81){101/54(64) - 126/74(87)} mmHg
   RR: 14 (10 - 17) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  2,668 mL
                                                                    779 mL
   PO:
             TF:
                                                                    551 mL
                                                                    239 mL
   IVF:
                                                                  1,761 mL
                                                                    450 mL
   Blood products:
   Total out:
                                                                  2,939 mL
                                                                  2,937 mL
   Urine:
                                                                  2,939 mL
                                                                  2,937 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -271 mL
                                                                 -2,158 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 5
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 150
   PIP: 31 cmH2O
   Plateau: 28 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 95%
   ABG: ///35/
   Ve: 7 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: ), Prolonged exhalation
   Abdominal: Obese
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, stasis changes both LE
   Neurologic: Responds to: Verbal stimuli, Oriented (to): , Movement: No
   spontaneous movement, Sedated, Tone: Not assessed
   Labs / Radiology
   14.7 g/dL
   171 K/uL
   336 mg/dL
   0.8 mg/dL
   35 mEq/L
   4.3 mEq/L
   18 mg/dL
   95 mEq/L
   143 mEq/L
   45.0 %
   6.6 K/uL
        [image002.jpg]
                             [**2189-12-10**]  03:35 PM
                             [**2189-12-10**]  03:50 PM
                             [**2189-12-11**]  04:37 AM
                             [**2189-12-11**]  04:48 AM
                             [**2189-12-11**]  01:26 PM
                             [**2189-12-11**]  07:48 PM
                             [**2189-12-12**]  04:52 AM
                             [**2189-12-13**]  03:26 AM
                             [**2189-12-13**]  04:49 AM
                             [**2189-12-14**]  06:37 AM
   WBC
   5.9
   5.7
   5.2
   6.6
   Hct
   42.4
   43.4
   43.7
   45.0
   Plt
   [**Telephone/Fax (3) 332**]71
   Cr
   0.7
   0.6
   0.6
   0.8
   0.8
   TCO2
   33
   33
   33
   32
   41
   Glucose
   137
   155
   192
   271
   336
   Other labs: PT / PTT / INR:12.5/21.3/1.1, ALT / AST:31/39, Alk Phos / T
   Bili:69/0.5, Differential-Neuts:55.6 %, Lymph:30.4 %, Mono:7.2 %,
   Eos:6.3 %, Lactic Acid:1.0 mmol/L, Ca++:9.8 mg/dL, Mg++:1.9 mg/dL,
   PO4:5.0 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]) for trache today. Remains
   heavily sedated. Would be inclined to decrease sedation after trache.
   No recent RSBI.  Now NPO
   scheduled for trach in OR by thoracic surgery on Fri
 OBESITY HYPOVENTILATION (PICKWICKIAN SYNDROME)
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
   Sputum Culture + MRSA PNA
 BACTEREMIA
   MRSA bacteremia
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION - no idea how severe it is - continuing
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 OBSTRUCTIVE SLEEP APNEA (OSA) - going for trache
 DIABETES MELLITUS (DM), TYPE II - glucose remains poorly controlled -
   will increase glargine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2189-12-10**] 10:29 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : transfer West to floor
   Total time spent:  35